US07935722B2
(R)-Cyclopropanecarboxylic acid[9-(3-fluoro-benzyl)-6-(hydroxyimino-methyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide
Combine (R)-cyclopropanecarboxylic acid[9-(3-fluorobenzyl)-6-formyl-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide (Preparation 71) (1.50 g, 3.82 mmol), hydroxylamine hydrochloride (0.801 g, 11.5 mmol), and sodium hydroxide (0.23 g, 5.76 mmol) and stir under nitrogen for 1.5 h. Dilute with water and extract with EtOAc. Pass the dark residue through a pad of silica eluting with 50% EtOAc/hexanes to give 1.27 g (82%) of the title compound. MS (ES): m/z 406 (M+1).

reactant | (R)-cyclopropanecarboxylic acid[9-(3-fluorobenzyl)-6-formyl-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide | 3.82 mmol, 1.50 g | FC=1C=C(CN2C3=CC=C(C=C3C=3C[C@@H](CCC23)NC(=O)C2CC2)C=O)C=CC1 | C24H23FN2O2
reactant | hydroxylamine hydrochloride | 11.5 mmol, 0.801 g | Cl.NO
reactant | sodium hydroxide | 5.76 mmol, 0.23 g | [OH-].[Na+]
solvent | water | O | H2O
product | (R)-Cyclopropanecarboxylic acid[9-(3-fluoro-benzyl)-6-(hydroxyimino-methyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-amide | 1.27 g, 82% | FC=1C=C(CN2C3=CC=C(C=C3C=3C[C@@H](CCC23)NC(=O)C2CC2)C=NO)C=CC1 | C24H24FN3O2
